US07135492B2
Ethyl chlorooxoacetate (11.2 mL; 0.1 mol) was added dropwise while cooling in an ice bath to the stirring solution of N-(5-chloro-2-methylphenyl)-N′-(2-propynyl)thiourea (11.95 g; 0.05 mol) in methylene chloride (200 mL). The mixture was stirred for 18 hours at ambient temperature then evaporated to dryness. The residue was stirred in ether (200 mL) and the solids were collected by filtration and air dried to give 3.0 g 1-(5-chloro-2-methylphenyl)-3-(2-propynyl)-2-thioxo-4,5-imidazolidinedione, m.p. 162–164° C. Mass spectrum; (El, M.+) m/z 292/294. 1H-NMR (DMSO-d6; 300 MHz): δ 7.50–7.47 (m, 2H), 7.73 (d, 1H), 4.66 (q, 2H), 3.37 (t, 1H), and 2.15 ppm (s,3H).

reactant | Ethyl chlorooxoacetate | 0.1 mol, 11.2 mL | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | N-(5-chloro-2-methylphenyl)-N′-(2-propynyl)thiourea | 0.05 mol, 11.95 g | ClC=1C=CC(=C(C1)NC(=S)NCC#C)C | C11H11ClN2S
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-chloro-2-methylphenyl)-3-(2-propynyl)-2-thioxo-4,5-imidazolidinedione | 3.0 g | ClC=1C=CC(=C(C1)N1C(N(C(C1=O)=O)CC#C)=S)C | C13H9ClN2O2S
